reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[C:4]([H:13])[H:14])[O:5][H:16])([C:6]#[C:7][H:17])[H:12])([H:8])([H:9])[H:10].[H:11][H:15],124.236938646823
[O:1]([C:2]([C:3]([C:4]#[C:5][H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:7](=[C:6]=[C:3]([C:4]#[C:5][H:12])[H:11])[H:13])([H:9])[H:10])[H:8],69.368231818084
[C:1]([C:2]([C:3][C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:13])([H:14])([H:15])[H:16]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],8.335129381477188
[O:1]=[C:2]([N:3]([C:4]([N+:6]#[C-:5])([H:9])[H:10])[H:8])[H:7]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],36.0019461448574
[O+:1](=[C-:2][H:7])[C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9]>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],50.34464343580228
[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C@:3]([N:4]([H:13])[H:14])([H:12])[C:5][N:6]1[H:9]>>[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],56.905345443883995
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C-:4]=[O+:5][C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],104.012927841378
[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]=[C:3]([C:4](=[O:5])[C:6]#[C:7][H:11])[H:9])([H:8])[H:10],82.6790321506158
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C@@:5]([C:4]([H:13])([H:14])[H:15])([H:16])[O:6]1)([H:7])([H:8])[H:9],73.28189439794821
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[O:3][C:5](=[C:6]([H:11])[H:14])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],72.92056045276071
[C:1]([C@:2]1([H:12])[C:3]([H:13])([H:14])[C@@:4]([C:5]([H:16])([H:17])[H:18])([H:15])/[C:6]1=[N:7]\[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],82.42838166985449
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C+:2]=[C:5]=[N-:6])([H:7])([H:8])[H:9].[C:3]([O:4][H:13])([H:10])([H:11])[H:12],114.30731637974199
[O:1]([C@@:2]1([H:8])[C@@:3]2([H:9])[C:4]([H:10])([H:11])[O:5][C@@:6]12[H:12])[H:7]>>[O:1]([C:2](=[C:3]([C:6](=[O+:5][C-:4]([H:10])[H:11])[H:12])[H:9])[H:8])[H:7],65.3426132527387
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3]([N:4]([H:11])[H:12])/[C:5]([O:6][H:13])=[N:7]\[H:14])([H:8])([H:9])[H:10],48.8134523924084
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]1[C@:2]2([H:7])[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C@@:5]1([H:12])[O:6]2,53.90603058022321
[N:1]#[C:2][c:3]1[n:4][c:5]([H:8])[c:6]([H:9])[n:7]1[H:10]>>[N:1]#[C:2][C:3]1=[N:4][C@:5]1(/[C:6](=[N:7]/[H:10])[H:9])[H:8],110.565288325837
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:7])[H:8])[C:5](=[O:6])[H:12],77.05389799952391
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[O:1](/[C:5](=[C:4]1\[C:2]([H:9])([H:10])[C@@:3]1([C:6]#[N:7])[H:11])[H:12])[H:8],76.2024954890651
[N:1]([c:2]1[c:3]([H:9])[n:4]([H:10])[n:5][c:6]1[H:11])([H:7])[H:8]>>[N:1]([C+:2][C@@:6]1([H:11])[C:3]([H:9])[N:4]([H:10])[N-:5]1)([H:7])[H:8],124.31093160931201
[C:1](=[O:2])([H:7])[H:9].[c:3]1(=[O:4])[c:5]([H:8])[c:6]1[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9],52.70942895215641
[C:1](=[C:2]([O:3][H:8])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],50.07240919585671
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([N+:7]#[C-:6])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],60.2035632811971
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C@:4]1([H:15])[O:5][C:6]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9],66.79190846252371
[C:1]([N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])([H:8])([H:9])[H:10].[N:2](=[C:3]=[O:4])[H:11]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],69.714893949452
